US08895745B2
b) 3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide
To a stirred solution of 3-[3-[3-(2,2,2-trifluoroethyl)ureido]-phenyl}imidazo[1,2-a]pyridine-7-carboxylic acid amide (20 mg, 0.053 mmol) in dry DMF (0.5 ml) was added Bredereck's reagent (25 μl, 0.12 mmol) and the reaction mixture stirred for 1 h. Et2O was added to the reaction and the resulting precipitate filtered off. The precipitate was redissolved in MeOH, transferred to a flask and the solvent removed in vacuo to afford a pale yellow solid (17 mg). MS: [M+H]+433.

reactant | 3-[3-[3-(2,2,2-trifluoroethyl)ureido]-phenyl}imidazo[1,2-a]pyridine-7-carboxylic acid amide | 0.053 mmol, 20 mg | FC(CNC(NC=1C=C(C=CC1)C1=CN=C2N1C=CC(=C2)C(=O)N)=O)(F)F | C17H14F3N5O2
reactant | Bredereck's reagent | 0.12 mmol, 25 μl | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | Et2O | CCOCC | C4H10O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide | 17 mg | CN(\C=N\C(=O)C1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C | C20H19F3N6O2
